US09259470B2
A suspension of 4-bromo-2-(methylthio)pyrimidine (7.00 g, 34.1 mmol), 2-fluoropyridin-4-ylboronic acid (5.05 g, 35.8 mmol), Na2CO3 (10.9 g, 102 mmol) and Pd(dppf)Cl2 CH2Cl2 (1.40 g, 1.71 mmol) in dioxane/H2O (100 mL; 1:1) was heated to 85° C. under an Ar balloon for 2 hours. The reaction mixture was cooled to room temperature and concentrated. The residue was diluted with ethyl acetate (200 mL) and water (100 mL). The layers were separated, and the aqueous layer was extracted with ethyl acetate (1×). The organics were dried, filtered and concentrated. The crude product was purified via column chromatography, eluting with hexanes/ethyl acetate (3:1) to give 4-(2-fluoropyridin-4-yl)-2-(methylthio)pyrimidine (6.83 g, 90%) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 8.85 (d, J=5.2 Hz, 1H), 8.46 (d, J=5.2 Hz, 1H), 8.11 (m, 1H), 7.96 (d, J=5.2 Hz, 1H), 7.92 (s, 1H), 2.62 (s, 3H); m/z (APCI-pos) M+1=222.1.

reactant | 4-bromo-2-(methylthio)pyrimidine | 34.1 mmol, 7.00 g | BrC1=NC(=NC=C1)SC | C5H5BrN2S
reactant | 2-fluoropyridin-4-ylboronic acid | 35.8 mmol, 5.05 g | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | Na2CO3 | 102 mmol, 10.9 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane H2O | 100 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 1.71 mmol, 1.40 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-(2-fluoropyridin-4-yl)-2-(methylthio)pyrimidine | 6.83 g, 90% | FC1=NC=CC(=C1)C1=NC(=NC=C1)SC | C10H8FN3S
